US06169107A
The reaction was carried out in a manner similar to Example 186 c) except for using 0.24 g (0.62 mmol) of 4-chloro-1-methyl-6-(4-nitrophenoxy)-2-indoloylguanidine, 0.72 g (3.20 mmol) of tin (II) chloride dihydrate and 15 ml of ethanol. Thus, 0.089 g of 6-(4-aminophenoxy)-4-chloro-1-methyl-2-indoloylguanidine dihydrochloride was obtained.

reactant | 4-chloro-1-methyl-6-(4-nitrophenoxy)-2-indoloylguanidine | 0.62 mmol, 0.24 g | ClC1=C2C=C(NC2=CC(=C1)OC1=CC=C(C=C1)[N+](=O)[O-])C(=O)N=C(NC)N | C17H14ClN5O4
reactant | tin (II) chloride dihydrate | 3.20 mmol, 0.72 g | O.O.[Sn](Cl)Cl
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 6-(4-aminophenoxy)-4-chloro-1-methyl-2-indoloylguanidine dihydrochloride | 0.089 g | Cl.Cl.NC1=CC=C(OC2=CC(=C3C=C(NC3=C2)C(=O)N=C(NC)N)Cl)C=C1 | InChI=1S/C17H16ClN5O2.2ClH/c1-21-17(20)23-16(24)15-8-12-13(18)6-11(7-14(12)22-15)25-10-4-2-9(19)3-5-10;;/h2-8,22H,19H2,1H3,(H3,20,21,23,24);2*1H
